US07091228B2
6-Methyl-1,3-benzoxazole-2(3H)-thione (375 mg, 2.27 mmol) was dissolved in THF (2.0 mL), and iodomethane (1610.8 mg, 11.35 mmol) and potassium carbonate (627.36 mg, 4.54 mmol) were added. This reaction mixture was stirred vigorously at rt overnight. The reaction mixture was filtered and the solid was rinsed with additional THF. The filtrate was concentrated in vacuo to a yellow solid. The solid was partitioned between ethyl acetate and water. The organic layer was separated and washed with brine, dried with MgSO4, and concentrated. The solid was dried for 1 h in a 50° C. oven. The product 6-methyl-2-(methylsulfanyl)-1,3-benzoxazole was obtained as yellow solid (145 mg, 35.6%). 1H NMR (300 MHz, DMSO-d6) δ 7.50 (d, 1 H), 7.20 (s, 1 H), 7.10 (d, 1 H), 2.78 (s, 3 H), 2.42 (s, 3 H); LC-MS ret. time 2.90 min (method 2), m/z 180.1 (MH+).

reactant | 6-Methyl-1,3-benzoxazole-2(3H)-thione | 2.27 mmol, 375 mg | CC1=CC2=C(NC(O2)=S)C=C1 | C8H7NOS
reactant | iodomethane | 11.35 mmol, 1610.8 mg | IC | CH3I
reactant | potassium carbonate | 4.54 mmol, 627.36 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 6-methyl-2-(methylsulfanyl)-1,3-benzoxazole | CC1=CC2=C(N=C(O2)SC)C=C1 | C9H9NOS
